US06995156B2
To a solution of N-t-butoxycarbonylhistidine (2 g, 7.05 mmol) in THF (30 mL) was added 1-ethoxycarbonylpiperazine (1.36 mL, 1.3 eq.), EDCl (1.65 g, 1.2 eq.), HOBt (1.2 g, 1.1 eq.) and the reaction mixture was stirred overnight. The reaction mixture was evaporated in vacuo to afford a crude product, which was dissolved in ethyl acetate, washed with saturated NaHCO3, 1M NaHSO4 and brine. The organic layer was evaporated. Flash column chromatography with 2%–6% MeOH in CH2Cl2 afforded 4-ethoxycarbonyl-1-(1-(t-butoxycarbonyl)amino-2-(imidazol-4-yl)ethyl)carbonylpiperazine (820 mg). 4-Ethoxycarbonyl-1-(1-(t-butoxycarbonyl)amino-2-(imidazol-4-yl)ethyl)carbonylpiperazine (200 mg, 0.5 mmol) was treated with trifluoroacetic acid/methylene chloride (1:1, 2.0 mL) with stirring at ambient temperture for 1 hour. Evaporation gave 4-ethoxycarbonyl-1-(1-amino-2-(imidazol-4-yl)ethyl)carbonylpiperazine, which was treated with methylene chloride and triethylamine (0.5 mL), and the solvents evaporated to again afford 4-ethoxycarbonyl-1-(1-amino-2-(imidazol-4-yl)ethyl)carbonylpiperazine. To a solution of 2-carboxy-4-methoxyquinoline (124 mg, 0.61 mmol) in THF (4 mL) was added a mixture of 4-ethoxycarbonyl-1-(1-amino-2-(imidazol-4-yl)ethyl)carbonylpiperazine, THF (2 mL), and triethylamine (0.1 mL), followed by addition of EDCl (136 mg, 1.4 eq.), HOBt (98 mg, 1.4 eq.). The resulting mixture was stirred overnight. The crude product (245 mg, foam) was isolated from the reaction mixture by the same methods employed above. Flash column chromatography with 25%–6% MeOH in methylene chloride afforded 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-2-(imidazol-4-yl)ethyl]aminocarbonyl-4-methoxyquinoline; NMR (CDCl3) 1.25 (t, 3), 3.10–3.30 (m, 2), 3.20–3.65 (m, 9), 4.10 (m, 5), 5.40 (m, 1), 6.90 (s, 1), 7.55–7.60 (m, 3), 7.70 (t, 1), 8.02 (d, 1), 8.20 (d, 1), 9.0 (d, 1) ppm.

reactant | N-t-butoxycarbonylhistidine | 7.05 mmol, 2 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)O | C11H17N3O4
reactant | 1-ethoxycarbonylpiperazine | 1.36 mL, 1.3 eq. | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | EDCl | 1.65 g, 1.2 eq. | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.2 g, 1.1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-ethoxycarbonyl-1-(1-(t-butoxycarbonyl)amino-2-(imidazol-4-yl)ethyl)carbonylpiperazine | 820 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CC=1N=CNC1)NC(=O)OC(C)(C)C | C18H29N5O5
